US05516616
A solution of 32.15 g (100 mmol) of 2-dimethylaminoethyl 3,5-di-tert-butyl-4-hydroxybenzoate prepared as described above and 12.66 g (100 mmol) of benzyl chloride in 140 ml of acetonitrile was heated at reflux for 1 hour and then concentrated after filtering off a small amount of insolubles. The viscous residue was treated with boiling heptane and then with ligroine. The resultant amorphous solid was allowed to stand in ether which induced crystallization. This solid was collected and dried giving 38.2 g of N-[2-(3,5-di-tert-butyl-4-hydroxybenzoyloxy)ethyl]-N,N-dimethylbenzylammonium chloride (85.26% of theory); mp=215° C. dec.

reactant | 2-dimethylaminoethyl 3,5-di-tert-butyl-4-hydroxybenzoate | 100 mmol, 32.15 g | C(C)(C)(C)C=1C=C(C(=O)OCCN(C)C)C=C(C1O)C(C)(C)C | C19H31NO3
reactant | benzyl chloride | 100 mmol, 12.66 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | acetonitrile | 140 ml | C(C)#N | C2H3N
product | N-[2-(3,5-di-tert-butyl-4-hydroxybenzoyloxy)ethyl]-N,N-dimethylbenzylammonium chloride | 38.2 g, 85.26% | [Cl-].C(C)(C)(C)C=1C=C(C(=O)OCC[N+](C)(C)CC2=CC=CC=C2)C=C(C1O)C(C)(C)C | InChI=1S/C26H37NO3.ClH/c1-25(2,3)21-16-20(17-22(23(21)28)26(4,5)6)24(29)30-15-14-27(7,8)18-19-12-10-9-11-13-19;/h9-13,16-17H,14-15,18H2,1-8H3;1H
